US07427632B2
3-Chloro-N-[(R)-1-phenyl-2-(1-cyclopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide hydrochloride
Using alkylation method A with addition of 3A molecular sieves, 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)-ethyl]-1H-indole-6-carboxamide hydrochloride (200 mg, 0.44 mmol) and [(1-ethoxycyclopropyl)oxy]trimethylsilane (0.53 mL, 2.7 mmol) afforded, after purification (SiO2: 0 to 5% isopropylamine in 10:2:2:DCM:EtOAc:hexane) and after conversion to the HCl salt by general method B, 80 mg (40%) of the title compound.

reactant | 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)-ethyl]-1H-indole-6-carboxamide hydrochloride | 0.44 mmol, 200 mg | Cl.ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCNCC1)C1=CC=CC=C1
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 2.7 mmol, 0.53 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
product | 3-Chloro-N-[(R)-1-phenyl-2-(1-cyclopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide hydrochloride | Cl.ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCN(CC1)C1CC1)C1=CC=CC=C1 | InChI=1S/C26H30ClN3O2.ClH/c27-23-15-28-24-14-20(6-9-22(23)24)26(31)29-25(19-4-2-1-3-5-19)17-32-16-18-10-12-30(13-11-18)21-7-8-21;/h1-6,9,14-15,18,21,25,28H,7-8,10-13,16-17H2,(H,29,31);1H/t25-;/m0./s1
